US06235778B1
b) 2-(Morpholinylsulfonyl)aniline
A mixture of 1-(morpholinylsulfonyl)-2-nitrobenzene (5.18 g, 19 mmol); as prepared in the preceding step, and 10% palladium on carbon (520 mg) in ethanol (80 mL) and tetrahydrofuran (80 mL) was stirred under hydrogen (balloon) for 5 h. The catalyst was removed by filtration through Celite. The filtrate was concentrated to give the title compound as a yellow solid (4.50 g, 98%) which was directly used for the next step without further purification.

reactant | 1-(morpholinylsulfonyl)-2-nitrobenzene | 19 mmol, 5.18 g | N1(CCOCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H12N2O5S
catalyst | palladium on carbon | 520 mg | [Pd] | Pd
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-(Morpholinylsulfonyl)aniline | 4.50 g, 98% | N1(CCOCC1)S(=O)(=O)C1=C(N)C=CC=C1 | C10H14N2O3S
